US06506762B1
C. (2-Aminoethyl)[2-methyl-9-(2,4,6-trimethylphenyl)pyrimidino[4,5-b]indolizin-4-yl]amine
Heat a solution of 4-chloro-2-methyl-9-(2,4,6-trimethylphenyl)pyrimidino[4,5-b]indolizine (0.3 g, 0.89 mmol), and ethylene diamine (0.6 mL, 8.93 mmol) in dry NMP (3 mL) at 100 ° C. for 14 h. Pour the cooled mixture onto water (30 mL) and extracte twice with EtOAc (30 mL). Wash the combined extracts with brine (30 mL), dry, and evaporate in vacuo. Purify by preparative TLC (20% MeOH in CH2Cl2 with 0.5% ammonium hydroxide) to obtain the title compound as a yellow oil.

reactant | 4-chloro-2-methyl-9-(2,4,6-trimethylphenyl)pyrimidino[4,5-b]indolizine | 0.89 mmol, 0.3 g | ClC1=NC(=NC=2C=C3C(=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C20H18ClN3
reactant | ethylene diamine | 8.93 mmol, 0.6 mL | C(CN)N | C2H8N2
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | (2-Aminoethyl)[2-methyl-9-(2,4,6-trimethylphenyl)pyrimidino[4,5-b]indolizin-4-yl]amine | NCCNC1=NC(=NC=2C=C3C(=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C22H25N5
